US07589206B2
a) 4,7-Dibromo-1H-pyrrolo[3,2-c]pyridine
Vinyl magnesium bromide (44 ml, 1M in THF) was added to dry THF (40 ml) and the solution was cooled to 0° C. under an atmosphere of nitrogen. A solution of 2,5-dibromo-4-nitropyridine (prepared by the method of: Lee, Bang-Lin; Yamamoto, Takakazu, Macromolecules (1999), 32(5) 1375-1382.) (3.53 g) in THF (80 ml) was added dropwise over 40 mins at 0° C. The mixture was stirred at room temperature for 1 hr then cooled to 0° C. and a saturated solution of ammonium chloride (60 ml) was added. The mixture was stirred at room temperature for 15 min then added to a mixture of ethyl acetate (200 ml) and water (200 ml). The organic layer washed with water and evaporated. The residue was dissolved in a mixture of methanol (20 ml) and conc hydrochloric acid (0.5 ml). After standing at room temp for 30 mins the solution was evaporated and the residue added to ethyl acetate (50 ml) and water (50 ml) and made basic with sodium hydroxide. The organic layer washed with water (2×50 ml) then brine, dried (MgSO4) and evaporated. The residue was triturated with ether (20 ml) to give a solid which was filtered off. The filtrate was evaporated and triturated with ether to afford a second crop which on combination with the above gave the title compound (0.97 g). The filtrate was evaporated and dissolved in DCM and purified with Biotage chromatography eluting with DCM/Et2O 20:1 and evaporated to give white solid (0.38 g)

reactant | Vinyl magnesium bromide | 1M, 44 ml | C(=C)[Mg]Br
reactant | 2,5-dibromo-4-nitropyridine | BrC1=NC=C(C(=C1)[N+](=O)[O-])Br | C5H2Br2N2O2
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 4,7-Dibromo-1H-pyrrolo[3,2-c]pyridine | 0.97 g | BrC1=NC=C(C2=C1C=CN2)Br | C7H4Br2N2
